US09127130B2
A solution of 2-(Boc-oxyimino)-2-phenylacetonitrile (226 mg, 0.92 mmol) in 1,4-dioxane (30 mL) was added via syringe pump (rate=8 mL/hr) to a stirred solution of 1,5 diaminopentane dihydrochloride (1 g, 5.52 mmol) and TEA (1 ml, 7.12 mmol) in 1:1 1,4-dioxane:water (40 mL) under inert atmosphere at room temperature. The reaction was stirred for 12 h and DCM (20 mL) was added to the reaction mixture. The organic phase was extracted and concentrated in vacuo. The yellow residue was dissolved in diethyl ether (15 mL) and 5% HCl solution added. The acidic solution was washed with diethyl ether and then the pH of the aqueous layer adjusted to pH 14 with 2.5M NaOH solution. Ethyl acetate (20 mL) was added and the organic layer was washed with brine (2×50 mL), and dried (MgSO4). The solvents were evaporated in vacua to yield N-Boc-cadaverine as a yellow oil (100 mg, 55%). HPLC/MS (Hydrophilic/TFA) Rt=6.17 min; ESI MS (+ve) m/z=203 [M+1H); calc. m/z for C10H22N2O2: 202.3 g/mol,

reactant | 2-(Boc-oxyimino)-2-phenylacetonitrile | 0.92 mmol, 226 mg | C(=O)(OC(C)(C)C)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
reactant | 1,5 diaminopentane dihydrochloride | 5.52 mmol, 1 g | Cl.Cl.NCCCCCN
reactant | water | 40 mL | O | H2O
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | BocNH(CH2)5NH2 | 100 mg, 55% | C(=O)(OC(C)(C)C)NCCCCCN | C10H22N2O2
